US07648997B2
A mixture of triethyl orthoformate (154 g, 1.04 mol) and 2,2-dimethyl-1,3-dioxane-4,6-dione (Meldrum's acid, 142 g, 0.983 mol) was heated to 55° C. for 4 hours. After cooling to 50° C., a solution of 3-bromoaniline (162.6 g, 0.945 mol) in ethanol (300 mL) was added such that the temperature of the reaction was maintained between 50-55° C. After half of the 3-bromoaniline had been added, stirring became difficult due to the formation of solids, so more ethanol (1 L) was added to facilitate stirring. Upon complete addition, the reaction was cooled to room temperature, and the solids were collected by filtration. The filter cake was washed with ice cold ethanol until the washings were nearly colorless, and the product was dried at 65° C. under vacuum to afford 287 g of 5-[(3-bromophenylimino)methyl]-2,2-dimethyl-1,3-dioxane-4,6-dione as an off-white solid.

reactant | triethyl orthoformate | 1.04 mol, 154 g | C(OCC)(OCC)OCC | C7H16O3
reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 0.983 mol, 142 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | 3-bromoaniline | 0.945 mol, 162.6 g | BrC=1C=C(N)C=CC1 | C6H6BrN
solvent | ethanol | 300 mL | C(C)O | C2H6O
solvent | ethanol | 1 L | C(C)O | C2H6O
product | 5-[(3-bromophenylimino)methyl]-2,2-dimethyl-1,3-dioxane-4,6-dione | 287 g | BrC=1C=C(C=CC1)N=CC1C(OC(OC1=O)(C)C)=O | C13H12BrNO4
